US07262185B2
A mixture of 3-(4-nitrophenylthiomethyl)imidazo[1,2-a]pyridine (1.5 g), reduced iron (1.47 g) and calcium chloride (0.29 g) in 15% hydrous ethanol (45 ml) was heated to reflux for 5 hours. After cooling to room temperature, and the precipitates were removed by filtration. After concentrating the filtrate, water was added to the mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate and concentrated under reduced pressure. The precipitated crystals were collected by filtration. The crystals were washed with diisopropylether, to give 3-(4-aminophenylthiomethyl)imidazo[1,2-a]pyridine (1.13 g) as pale yellow crystals.

reactant | 3-(4-nitrophenylthiomethyl)imidazo[1,2-a]pyridine | 1.5 g | [N+](=O)([O-])C1=CC=C(C=C1)SCC1=CN=C2N1C=CC=C2 | C14H11N3O2S
reactant | calcium chloride | 0.29 g | [Cl-].[Ca+2].[Cl-]
solvent | ethanol | 45 ml | C(C)O | C2H6O
product | 3-(4-aminophenylthiomethyl)imidazo[1,2-a]pyridine | 1.13 g | NC1=CC=C(C=C1)SCC1=CN=C2N1C=CC=C2 | C14H13N3S
